US08623889B2
(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol
Lithium tetrahydroaluminate (1.0M solution in tetrahydrofuran, 6.1 mL, 6.0 mmol) was added dropwise to a solution of 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (0.4 g, 1.5 mmol) in tetrahydrofuran (6 mL) cooled at 0° C. The reaction mixture was warmed to room temperature, stirred for 2 hours, and then quenched via dropwise addition of saturated aqueous ammonium chloride solution (1 mL). The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g, ISCO, 0-100% ethyl acetate in heptane) to afford the title compound as a white solid (276 mg, 61%). 1H NMR (400 MHz, CDCl3) δ 7.73 (d, J=1.3 Hz, 1H), 7.32 (dd, J=7.8, 1.8 Hz, 1H), 7.16 (d, J=7.8 Hz, 1H), 4.63 (s, 2H), 3.01 (s, 1H), 2.52 (s, 3H), 1.34 (s, 12H).

reactant | Lithium tetrahydroaluminate | 6.0 mmol, 1.0M, 6.1 mL | [AlH4-].[Li+]
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 1.5 mmol, 0.4 g | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol | 276 mg, 61% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CO)C | C13H19BO3
